US06881733B1
cis-1-benzyl-3-methyl-4-(4-chloro-5-fluorobenzofur-7-yl)piperidine
Beginning with 0.56 gm (1.49 mMol) 1-benzyl-3-methyl-4-hydroxy-4-(4-chloro-5-fluorobenzofur-7-yl)piperidine, 1-benzyl-3-methyl-4-(methyl oxoacetoxy)-4-(4-chloro-5-fluorobenzofur-7-yl)piperidine was recovered essentially as described in EXAMPLE 16. This material was treated with tri(n-butyl)tin hydride essentially as described in EXAMPLE 16 to provide the desired compound.

reactant | 1-benzyl-3-methyl-4-hydroxy-4-(4-chloro-5-fluorobenzofur-7-yl)piperidine | 1.49 mMol, 0.56 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC(=C(C=2C=COC21)Cl)F)O)C | C21H21ClFNO2
reactant | 1-benzyl-3-methyl-4-(methyl oxoacetoxy)-4-(4-chloro-5-fluorobenzofur-7-yl)piperidine | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC(=C(C=2C=COC21)Cl)F)OC(C(=O)C)=O)C | C24H23ClFNO4
product | cis-1-benzyl-3-methyl-4-(4-chloro-5-fluorobenzofur-7-yl)piperidine | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)C1=CC(=C(C=2C=COC21)Cl)F)C | C21H21ClFNO
